US06380218B1
2-(Pyridin-3-yloxy)-N-(4-trifluoroacetyl-benzyl)-nicotinamide
To a stirred solution of 2-(Pyridin-3-yloxy)-N-[4-(2,2,2-trifluoro-1-hydroxy-ethyl)-benzyl]-nicotinamide (0.350 grams, 0.87 mmole), NMO (0.153 grams, 1.3 mmole) and 4 Å molecular sieves (0.5 g) in methylene chloride was added TPAP (0.015 grams, 0.04 mmole) and stirred at room temperature for 4 hours. The mixture was filtered through celite, washed with water, dried over MgSO4, filtered and concentrated under reduced pressure to give an oil which was purified by chromatography on silica eluting with 5% methanol/methylene chloride to give a solid (0.151 g). M.P. 134-136°C.; Anal. calcd. for C20H14N3O3F3: C, 59.85; H, 3.52; N, 10.47. Found: C, 59.56; H, 3.63; N, 10.20.

reactant | 2-(Pyridin-3-yloxy)-N-[4-(2,2,2-trifluoro-1-hydroxy-ethyl)-benzyl]-nicotinamide | 0.87 mmole, 0.350 grams | N1=CC(=CC=C1)OC1=C(C(=O)NCC2=CC=C(C=C2)C(C(F)(F)F)O)C=CC=N1 | C20H16F3N3O3
reactant | NMO | 1.3 mmole, 0.153 grams | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.04 mmole, 0.015 grams | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 2-(Pyridin-3-yloxy)-N-(4-trifluoroacetyl-benzyl)-nicotinamide | 0.151 g | N1=CC(=CC=C1)OC1=C(C(=O)NCC2=CC=C(C=C2)C(C(F)(F)F)=O)C=CC=N1 | C20H14F3N3O3
